US08859629B2
(1R,8S,Z)-Diethyl bicyclo[6.1.0]non-4-ene-9,9-dicarboxylate (IIa.8)
To a solution of 1,5-cyclooctadiene (5.27 mL, 43.0 mmol) and Rh2(OAc)4 (100 mg, 0.23 mmol) in CH2Cl2 (5 mL) was added dropwise in 3 h a solution of diethyl diazomalonate (1.0 g, 5.37 mmol) in CH2Cl2 (5 mL). This solution was stirred for 24 h at rt. The CH2Cl2 was evaporated and the excess of cyclooctadiene was removed by filtration over a glass filter filled with silica (cluens: heptane). The filtrate was concentrated in vacuo and the residue was purified by column chromatography on silica gel (EtOAc:heptane, 1:10) to afford IIa.8 (1.03 g, 72%).

reactant | 1,5-cyclooctadiene | 43.0 mmol, 5.27 mL | C1=CCCC=CCC1 | C8H12
reactant | diethyl diazomalonate | 5.37 mmol, 1.0 g | [N+](=[N-])=C(C(=O)OCC)C(=O)OCC | C7H10N2O4
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (1R,8S,Z)-Diethyl bicyclo[6.1.0]non-4-ene-9,9-dicarboxylate | [C@H]12CC\C=C/CC[C@@H]2C1(C(=O)OCC)C(=O)OCC | C15H22O4
